US08217176B2
Production of ethyl 3-ethoxy-6-ethyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxylate
In the same manner as in Reference Example 5, ethyl 6-ethyl-3-hydroxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxylate was obtained from the compound of Reference Example 39 (3.6 g, 10.3 mmol), ethyl thioglycolate (14.4 mL, 103 mmol) and triethylamine (2.3 mL, 20.6 mmol). The title compound (900 mg, 47%) was obtained as a white solid from the thus-obtained ethyl 6-ethyl-3-hydroxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxylate (1.8 g, 4.7 mmol) by a method similar to that in Reference Example 43.

reactant | ethyl 6-ethyl-3-hydroxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxylate | C(C)C1=CC2=C(C(N1CC(C1=CC=CC=C1)=O)=O)C(=C(S2)C(=O)OCC)O | C20H19NO5S
reactant | ethyl thioglycolate | 103 mmol, 14.4 mL | C(CS)(=O)OCC | C4H8O2S
reactant | triethylamine | 20.6 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-ethoxy-6-ethyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxylate | 4.7 mmol, 1.8 g | C(C)OC1=C(SC2=C1C(N(C(=C2)CC)CC(C2=CC=CC=C2)=O)=O)C(=O)OCC | C22H23NO5S
